US09388189B2
c) (S)—N-(3-(4-amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-hydroxyphenyl)-4-methoxybenzenesulfonamide
(S)-2-(1-((6-Amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (70 mg, 0.14 mmol) was treated with N-(3-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4-methoxybenzenesulfonamide (87 mg, 0.21 mmol), 2M sodium carbonate (216 μl, 0.43 mmol) and tetrakis(triphenylphosphino)palladium(0) (8 mg, 0.01 mmol) according to the method described in Example 3 to give 25 mg (27% yield) of the title compound as a solid. Purity 100%.

reactant | (S)-2-(1-((6-Amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.14 mmol, 70 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)I | C19H18IN7O
reactant | N-(3-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4-methoxybenzenesulfonamide | 0.21 mmol, 87 mg | OC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NS(=O)(=O)C1=CC=C(C=C1)OC | C19H24BNO6S
reactant | sodium carbonate | 0.43 mmol, 2M, 216 μl | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphino)palladium(0) | 0.01 mmol, 8 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-4](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | (S)—N-(3-(4-amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-hydroxyphenyl)-4-methoxybenzenesulfonamide | 25 mg, 27% yield | NC1=NC=NC(=C1C=1C=C(C=C(C1)O)NS(=O)(=O)C1=CC=C(C=C1)OC)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C32H30N8O5S
